data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-c2ccc(C(F)(F)F)cc2_2-C#N_3-Cl_4-C2CCCCC2_5-c2ccccc2_6-C(=O)C_7-c2ccccc2C","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(Cl)C(=O)C2CCCCC2)(c2ccc(C(F)(F)F)cc2)C#N","C(c2ccccc2)(C(=O)C)C(=O)c2ccccc2C"],"products_smiles": ["C1(=C(C2CCCCC2)C(=O)C(C(c2ccc(C(F)(F)F)cc2)(C#N)C1(c2ccccc2)C(=O)C)Cl)c2ccccc2C"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(c2ccccc2)C(=O)C)([O-])c2ccccc2C","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(c2ccc(C(F)(F)F)cc2)(C#N)C(=C([O-])CC2CCCCC2)Cl)(c2ccccc2)C(=O)C)c2ccccc2C","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccc(C(F)(F)F)cc2)(C#N)C(Cl)C(=O)CC2CCCCC2)(c2ccccc2)C(=O)C)c2ccccc2C","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccc(C(F)(F)F)cc2)(C#N)C(Cl)C([O-])=CC2CCCCC2)(c2ccccc2)C(=O)C)c2ccccc2C","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C2CCCCC2)C(=O)C(C(c2ccc(C(F)(F)F)cc2)(C#N)C1(c2ccccc2)C(=O)C)Cl)(c2ccccc2C)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C2CCCCC2)=C([O-])C(C(c2ccc(C(F)(F)F)cc2)(C#N)C1(c2ccccc2)C(=O)C)Cl)(c2ccccc2C)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(C2CCCCC2)C(=O)C(C(c2ccc(C(F)(F)F)cc2)(C#N)C1(c2ccccc2)C(=O)C)Cl)c2ccccc2C","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
{"reaction_id": "NR-115_10-c1ccccc1_1-c1ccccc1_2-S(=O)(=O)c1ccccc1_3-COCC_4-CCCC_5-CC(C)C_6-F_7-C_8-C(C)(C)C_9-c1ccc(C)cc1","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(COCC)C(O/C(=C(/F)C)/O[Si](C(C)(C)C)(c1ccc(C)cc1)(c1ccccc1))(CC(C)C)CCCC)(c1ccccc1)S(=O)(=O)c1ccccc1"],"products_smiles": ["C(=C(COCC)C(C(C(=O)O[Si](C(C)(C)C)(c1ccc(C)cc1)(c1ccccc1))(C)F)(CC(C)C)CCCC)(c1ccccc1)S(=O)(=O)c1ccccc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(COCC)C(C(C(=O)O[Si](C(C)(C)C)(c1ccc(C)cc1)(c1ccccc1))(C)F)(CC(C)C)CCCC)(c1ccccc1)S(=O)(=O)c1ccccc1","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
